US06376512B1
A heterogenous mixture of 4-(3-(2-quinolinylmethyloxy)benzoylmethyl)benzonitrile (1.35 mmol). NaN3 (6.77 mmol), pyridinium hydrochloride (6.77 mmol) in DMF (3 ml) is heated at 100° C. for 3 hours under nitrogen. The reaction mixture is poured into water and the product is collected on a filter. Recrystallization from EtOAc-DMF gives 5-(4-(3-(2-quinolinylmethyloxy)benzoylmethyl)phenyl)tetrazole.

reactant | 4-(3-(2-quinolinylmethyloxy)benzoylmethyl)benzonitrile | 1.35 mmol | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C(=O)CC2=CC=C(C#N)C=C2)C=CC1 | C25H18N2O2
reactant | NaN3 | 6.77 mmol | [N-]=[N+]=[N-].[Na+]
reactant | pyridinium hydrochloride | 6.77 mmol | Cl.[NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 5-(4-(3-(2-quinolinylmethyloxy)benzoylmethyl)phenyl)tetrazole | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C(=O)CC2=CC=C(C=C2)C2=NN=NN2)C=CC1 | C25H19N5O2
